US07531545B2
Step A: (R)-[1-(2,2-Dimethyl-4,6-dioxo-[1,3]dioxane-5-carbonyl)-2-methyl-propyl]-carbamic acid tert-butyl ester
A 5 L four-necked flask (equipped with mechanical stirrer, nitrogen inlet, thermocouple, and glass stopper) was charged with Boc-D-Valine (143.6 g, 0.661 mol) and dichloromethane (2.8 L). The reaction was chilled to ˜3° C. in an ice bath, and then 4-N,N-dimethylaminopyridine (124.6 g, 1.02 mol) and Meldrum's acid (104.8 g, 0.727 mol) were added to the reaction. To the reaction mixture was then added 1-[3-(dimethylaminopropyl)]-3-ethylcarbodiimide hydrochloride (EDCl, 139.4 g, 0.727 mol) over a five-minute period, and then the reaction mixture was allowed to warm to room temperature over 18 h (overnight). The reaction mixture washed with 5% (w/w) aqueous potassium bisulfate (4×600 mL), dried (MgSO4), and the solution was used directly in the next step without concentration or purification. A small portion was concentrated and displayed the following analytical data.

reactant | Boc-D-Valine | 0.661 mol, 143.6 g | C(=O)(OC(C)(C)C)N[C@H](C(C)C)C(=O)O | C10H19NO4
reactant | Meldrum's acid | 0.727 mol, 104.8 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
solvent | dichloromethane | 2.8 L | ClCCl | CH2Cl2
product | (R)-[1-(2,2-Dimethyl-4,6-dioxo-[1,3]dioxane-5-carbonyl)-2-methyl-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H](C(C)C)C(=O)C1C(OC(OC1=O)(C)C)=O)=O | C16H25NO7
